US07732461B2
(b) Methyl 3-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]-2-[6-(methyloxy)-1,5-naphthyridin-4-yl]propanoate
To a solution of methyl 2-[6-(methyloxy)-1,5-naphthyridin-4-yl]-2-propenoate (2.53 g, 10.37 mmol) in DMF (4 ml) and tetramethylguanidine (0.1 ml) was added 1,1-dimethylethyl 4-piperidinylcarbamate (2.08 g, 10.37 mmol). The reaction was stirred for 1 hour at 70° C. after which time the solvent was evaporated. The residue was chromatographed on silica eluting with a gradient of 5% methanol in dichloromethane affording the desired compound as a yellow solid (2.66 g, 58%).

reactant | methyl 2-[6-(methyloxy)-1,5-naphthyridin-4-yl]-2-propenoate | 10.37 mmol, 2.53 g | COC=1N=C2C(=CC=NC2=CC1)C(C(=O)OC)=C | C13H12N2O3
reactant | 1,1-dimethylethyl 4-piperidinylcarbamate | 10.37 mmol, 2.08 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
solvent | tetramethylguanidine | 0.1 ml | CN(C(N(C)C)=N)C | C5H13N3
product | Methyl 3-[4-({[(1,1-dimethylethyl)oxy]carbonyl}amino)-1-piperidinyl]-2-[6-(methyloxy)-1,5-naphthyridin-4-yl]propanoate | CC(C)(C)OC(=O)NC1CCN(CC1)CC(C(=O)OC)C1=CC=NC2=CC=C(N=C12)OC | C23H32N4O5
